US07732461B2
(e) (cis)-3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol
A solution of (cis)-4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxamide (0.7 g, 3 mmol) in THF (6 ml) was treated with a borane-methyl sulphide complex (2M solution in THF, 3.3 ml). The reaction mixture was heated at 80° C. for 1300 s under microwave irradiation conditions. This was repeated twelve times and then the reaction mixtures were combined and the solvent was removed under reduced pressure and the residue was subjected to column chromatography on silica gel using a dichloromethane, methanol and aqueous ammonia gradient (20% methanol/dichloromethane-20% 2M ammonia in methanol/dichloromethane) to provide 4.6 g of the desired pure compound and 1.1 g of less pure material.

reactant | (cis)-4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxamide | 3 mmol, 0.7 g | O[C@@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)C(=O)N | C13H18N2O2
reactant | borane methyl sulphide | 2M, 3.3 ml | B.CSC
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | (cis)-3-(aminomethyl)-1-(phenylmethyl)-4-piperidinol | NC[C@@H]1CN(CC[C@@H]1O)CC1=CC=CC=C1 | C13H20N2O
